US06030991
(b) N-(4-bromo-3-methyl-5-isoxazolyl)-4-(3-methoxyphenyl)benzenesulfonamide
N-(4-bromo-3-methyl-5-isoxazolyl)-4-(3-methoxyphenyl)benzenesulfonamide was prepared in the same manner as described in Example 15 using N-(3-methyl-5-isoxazolyl)-4-(3-methoxyphenyl)benzenesulfonamide and NBS (reaction time 30 min at room temperature). The crude product was purified by column chromatography on silica gel using ethyl acetate as eluent giving the final product, after recrystallization using hexane/ethyl acetate, in 75% yield, m.p. 140-144° C.

reactant | N-(3-methyl-5-isoxazolyl)-4-(3-methoxyphenyl)benzenesulfonamide | CC1=NOC(=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)OC | C17H16N2O4S
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | N-(4-bromo-3-methyl-5-isoxazolyl)-4-(3-methoxyphenyl)benzenesulfonamide | BrC=1C(=NOC1NS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)OC)C | C17H15BrN2O4S
